Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest discomfort, L arm paresthesias, nausea, loss of appetite, 
dizziness, headaches
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mrs. ___ is a ___ woman with ASD/PFO, h/o DVT/PE, chest
pain/presumed vasospasm, and palpitations who is presenting with
headaches, nausea, L arm paresthesias, and chest discomfort. 

Patient initially presented to ___ ___ due to
squeezing chest pain, idziness, and transient left arm
weakness/numbness where she was found to have a mild troponin
elevation. CTA was negative for PE at that time and coronary
angiography revealed no epicardial coronary artery disease. Echo
was negative for structureal heart disease, so it was presumed
that her chest tightness was due to coronary vasospasm, and she
was started on amplodipine 2.5 mg daily. She then represented to
the ___ ED on ___ again with chest squeezing. Since troponin
was negative she was discharged from the ED without any
intervention. A few weeks later she again presented to ___ on ___ with similar symptoms, and amlodipine was
stopped and she was started on Imdur 30 mg daily. After starting
Imdur she had no more episodes of chest squeezing, but she
reported severe headaches, nausea, decreased appetite and
fogginess, so she stopped taking the Imdur four days before
admission, and her headaches have improved. 

In the interim, she was also seen in cardiology clinic by Dr.
___ ___ and subsequent TEE with bubble ___ was
consistent with atrial septal defect or large patent foramen
ovale. 

Last night she had difficulty sleeping, felt diaphoretic,
nauseated, and had a headache. She was advised by Dr. ___
office to present to the ___ ED for evaluation. On her way to
the ED, she began to develop numbness and tingling in her left
arm and weakness of her left hand again. 

In the ED she was evaluated by both cardiology and neurology.
Neurology noted that her exam was notable for mildly reduced
range of motion of the neck with increased tone in the bilateral
legs, decreased small fiber sensation perhaps in the left C6
dermatome along with some trouble with tandem gait and a small
degree of sway with Romberg. They felt that this constellation 
of
findings is atypical for TIA and is most consistent with mild
cervical myelopathy.  However, she also had a CT scan of her 
head
(final ready pending) which demonstrated a region of
encephalomalacia in the left cerebellum with adjacent
calcification which may be a sequela of prior infarct.

Cardiology was consulted and noted that given her ASD and PFO 
and
ongoing symptoms, admission to ___ for further evaluation and
anticoagulation with heparin gtt without bolus was indicated. 

 
Past Medical History:
-Chest pain/possible coronary vasospasm
-Valvular heart disease (1+ MR)
-Palpitations
-DVT/PE - developed in ___ after an appendectomy.  Was
anticoagulated with 6 months of warfarin
-Migraine headaches

 
Social History:
___
Family History:
Her father died at ___ of colon cancer, and had first MI
at ___, also with hypertension and hyperlipidemia. Her mother is
living age ___.  She has 1 sister, 1 son, and one daughter.  Her
sister had a TIA at age ___, and was evaluated with an
echocardiogram and did not have a PFO. No family history of DM 
or
SCD. Her daughter had an atrial septal defect, which was 
repaired
at age ___.  
 
Physical Exam:
ADMISSION PE:
ADMISSION PHYSICAL EXAM:
___ 2312 Temp: 98.2 PO BP: 115/76 R Lying HR: 66 RR:
20 O2 sat: 97% O2 delivery: RA 
GENERAL: Pleasant, alert, interactive, and cooperative.
EYES: NCAT. PERRL, EOMI. Sclera anicteric and without injection. 

ENT: MMM. Thyroid is normal in size and texture, no nodules. No
cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
RESP: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
MSK: No spinous process tenderness. No CVA tenderness. No
clubbing, cyanosis, or edema. Pulses DP/Radial 2+ bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Gait is normal. AOx3.
PSYCH: appropriate mood and affect

======================
DISCHARGE PE:
VS: tmax 98.6, BP 103-122/68-78, P
Tele: SB/SR/ST 50-100's

GENERAL: Pleasant, alert, interactive, and cooperative.
CV: Regular rhythm, normal rate. normal S1 and S2. No murmurs. 
no JVD
RESP: Clear to auscultation bilaterally
ABD: Normal bowels sounds, non distended, non-tender to deep 
palpation in all four quadrants. No organomegaly.
MSK: No spinous process tenderness. No CVA tenderness. No 
clubbing, cyanosis, or edema. Pulses DP/Radial 2+ bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEURO: CN ___ grossly intact. ___ strength throughout. Normal 
sensation.

 
Pertinent Results:
=====

TTE: (focused bubble study: ___
CONCLUSION:
There is premature appearance of a large amount (>30 
microbubbles) of agitated saline in the left heart at rest and 
with cough c/w a atrial septal defect/large patent foramen 
ovale.
IMPRESSION: Premature appearance of a large amount of contrast 
in the left heart at rest and with maneuvers c/w an atrial 
septal defect/large patent foramen ovale.
RECOMMEND: If clinically indicated, a TEE would be better able 
to define the interatrial septum.

=====

CTA head and neck: ___
Wet Read by ___ on FRI ___ 3:30 ___ 

CT HEAD: No acute intracranial hemorrhage. There is a region of 
encephalomalacia in the left cerebellum with adjacent 
calcification, which may be sequela of prior infarct or surgery. 

  
CT HEAD/NECK: No evidence of acute vascular compromise. The 
dural venous 
sinuses are patent. The major neck vessels are patent with no 
evidence of 
vascular injury, stenosis, or occlusion. 
  
CT PERFUSION: No significant defects in cerebral perfusion. 
  
Final report pending completion of 3D reconstructions and 
reformats. 

=====

BILAT LOWER EXT VEINS: ___
IMPRESSION:  
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins. 

=====

MRI/MRA BRAIN W/O CONTRAST: ___
IMPRESSION: 
1. No acute intracranial abnormality. No evidence of an acute 
stroke, 
intracranial mass, or hemorrhage. Chronic left cerebellar 
encephalomalacia likely related to prior infarct. 
2. Unremarkable MRA of the head, without evidence of high-grade 
stenosis, 
occlusion, or aneurysm. 

=====

LABS:
___ 07:15AM BLOOD WBC-6.7 RBC-4.29 Hgb-13.4 Hct-40.2 MCV-94 
MCH-31.2 MCHC-33.3 RDW-11.9 RDWSD-41.1 Plt ___
___ 01:15PM BLOOD WBC-12.3* RBC-4.90 Hgb-15.1 Hct-47.2* 
MCV-96 MCH-30.8 MCHC-32.0 RDW-11.8 RDWSD-41.4 Plt ___
___ 01:15PM BLOOD Neuts-70.4 ___ Monos-6.7 Eos-0.2* 
Baso-0.2 Im ___ AbsNeut-8.65* AbsLymp-2.73 AbsMono-0.82* 
AbsEos-0.02* AbsBaso-0.03
___ 01:15PM BLOOD ___ PTT-28.0 ___
___ 07:02AM BLOOD UreaN-12 Creat-0.7 Na-139 K-4.7
___ 07:15AM BLOOD Glucose-90 UreaN-10 Creat-0.8 Na-143 
K-4.6 Cl-104 HCO3-23 AnGap-16
___ 01:15PM BLOOD UreaN-10
___ 07:15AM BLOOD ALT-9 AST-14 AlkPhos-44 TotBili-0.9
___ 01:15PM BLOOD ALT-11 AST-15 AlkPhos-56 TotBili-1.0
___ 05:10PM BLOOD cTropnT-<0.01
___ 01:15PM BLOOD cTropnT-<0.01
___ 07:02AM BLOOD Mg-2.5
___ 07:15AM BLOOD Albumin-4.4 Calcium-9.6 Phos-4.0 Mg-2.4 
Cholest-124
___ 01:15PM BLOOD Albumin-5.4*
___ 04:47PM BLOOD %HbA1c-5.3 eAG-105
___ 07:15AM BLOOD Triglyc-67 HDL-64 CHOL/HD-1.9 LDLcalc-47
___ 01:15PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 01:26PM BLOOD Glucose-108* Creat-0.6 Na-140 K-3.7 
Cl-105 calHCO3-___ female with PMH of CP/possible coronary vasospasm, 
Valvular heart dx (1+ MR), Palps,  DVT/PE (___) after an appy 
put on 6 months /warfarin, remote migraines headaches who 
presents for her ___ time  to a hospital with a variety of 
symptoms including chest heaviness associated with left arm 
tingling, cold clammy feet, nausea, headaches, lack of appetite 
and dexterity issues that has been debilitating so much that has 
keep her out of work for weeks. Imaging ruled out DVT. Neuro 
consulted and recommended CT scan and continued to follow her 
through the 2 days she was here. Her CT scan did not show 
hemorrhage however did show possible prior infarct. MRI/MRA 
brain showed similar findings but nothing else concerning. Neuro 
exam intact and all labs and urine thus far have been normal. 24 
hour urine for metanephrines (which was started by admitting 
team) is still pending "to rule out pheo/paraganglioma" due to 
her intermittent headaches, hypertension and anxiety. Tele has 
been showing SB/SR/and intermittent ST 100's.

Neuro suggests outpatient stroke neurology follow up and EMG of 
LUE for carpal tunnel, ulnar neuropathy and cervical 
radiculopathy. They also want outpatient team to follow up on 
her hypercoagulable workup  from the past and consult hematology 
if needed.

Plan:
- Follow up Dr. ___ tomorrow
- zio patch readings from Dr. ___ with the group. 
Also collect hypercoag labs from wherever they were done.
- Follow up with Dr. ___. Next appointment is currently for 
___. Will need a outpatient TEE to further evaluate PFO.
- Follow up with Dr. ___ closure of PFO. ___, 
___ SH reach out to her?
- Follow up with neuro stroke and have EMG of LUE
- Will continue ASA and start on a different CCB, verapamil SR 
120 to see if some symptoms are spasms.

 

 
Medications on Admission:
NONE
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Verapamil SR 120 mg PO Q24H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
CP/possible coronary vasospasm
Valvular heart dx (1+ MR)
DVT/PE (___)
Migraine headaches

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  
 
It was a pleasure taking care of you at the ___ 
___.  

 WHY WAS I IN THE HOSPITAL?  
 ==========================  
 - You presented to hospital for your recurrent symptoms of left 
arm weakness and numbness as well as nausea sweating chest pain 
palpitations and dizziness.
  
 WHAT HAPPENED IN THE HOSPITAL?  
 ==============================  
- You were seen by the cardiology and neurology team.
-In terms of imaging you had a CT of your head and neck and 
although the final read is not in the preliminary read says 
there was no acute bleed however it suggested there may have 
been old stroke.  We went ahead and got an MRI/MRA of your brain 
and again the final read is not in however the prelim impression 
is that there was no acute intracranial abnormality no evidence 
of stroke mass or hemorrhage.  The MRI, like the CT, suggested 
there could have been a prior stroke.  In terms of lab work so 
far it has all come back normal.  Your hemoglobin A1c was 5.3 
which is normal so no diabetes.  Your cholesterol panel is 
within normal limits your urine was normal.  The 24-hour urine 
is still pending and your primary care doctor can retrieve the 
final results once they are in.  Dr. ___ originally 
seeing you in consultation while you are in the emergency room 
had and interpreted the bubble study.  He did see what appeared 
to be a large atrial septal defect or a large patent foramen 
ovale.  His recommendations was to get a better picture by 
having a trans-esophageal echo. Dr. ___ has been 
emailed regarding her hospital stay.

I have been in touch with Dr. ___ Dr. ___ Dr. ___ 
___ that everybody is on the same page.  In terms of things to 
follow-up on I have made a list for you.

1.  Find a neurologist. Please ___, the neurology 
clinic and specify that you need to be seen by neuro stroke 
doctor.  I have put in an order to have an EMG done.  Please 
call the number on the requisition to schedule that.  If 
possible this testing should be done prior to going to the 
neurology clinic so ask if it can be done as soon as possible.
2.  Make sure records from your Zio Patch have been sent over to 
Dr. ___ Dr. ___.
3.  Make sure you have follow-up with Dr. ___.
4.  Make sure that you are contacted for an appointment with Dr. 
___ the potential closure of your PFO.  The office 
number for her is ___. 
5.  Have a either Dr. ___ Dr. ___ a TEE if 
needed.
6.  Follow-up on the results of the 24-hour urine.  Dr. ___ 
will be able to do this.
7.  Take the new medication as prescribed.
8.  Make sure that Dr. ___ your hypercoagulability 
work-up that was previously done and distribute to the 
physicians as needed.
9.  I would call your insurance company anytime you are seeing 
somebody outside of the atria system to make sure it is either 
covered or what the cost would be.

 WHAT SHOULD I DO WHEN I GO HOME?  
 ================================  
- Start verapamil SR 120 mg once a day to help with any 
potential spasming that may be causing her symptoms.  This is a 
very similar medication to the prior amlodipine that you would 
tried however it seems to work better for people with headaches. 
Written drug information has been provided
- Start aspirin 81 mg daily to help prevent the formation of 
clots.
 
If you were given any prescriptions on discharge, any future 
refills will need to be authorized by your outpatient providers, 
primary care or cardiologist.  
 
It was a pleasure participating in your care.  
 
If you have any urgent questions that are related to your 
recovery from your hospitalization or are experiencing any 
symptoms that are concerning to you and you think you may need 
to return to the hospital, please call the ___ HeartLine at 
___ to speak to a cardiologist or cardiac nurse 
practitioner.  
 
-Your ___ Care Team  

 
Followup Instructions:
___